US04617389
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(2-fluoroethylamino)-azirino[2',3':3,4]pyrrolo[1,2-a]-indole-4,7-dione carbamate
This compound was prepared by the procedure described in Example 1, except that the 2-fluoroethylamine hydrochloride (220 mg.) was neutralized with sodium methoxide (119 mg.) in 2 ml. of methanol at 5° C. before the mitomycin A (77 mg.) was added, and potassium carbonate was not used. A 62 mg. (74%) yield of the desired product was obtained, having no melting point below 340° C. and providing the following analysis:

reactant | 2-fluoroethylamine hydrochloride | 220 mg | Cl.FCCN
reactant | sodium methoxide | 119 mg | C[O-].[Na+]
reactant | mitomycin A | 77 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(2-fluoroethylamino)-azirino[2',3':3,4]pyrrolo[1,2-a]-indole-4,7-dione carbamate | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCCF)C)=O)CC1C2N1)OC | InChI=1S/C16H20FN3O4.CH3NO2/c1-7-11(18-4-3-17)14(23)10-8(6-21)16(24-2)15-9(19-15)5-20(16)12(10)13(7)22;2-1(3)4/h8-9,15,18-19,21H,3-6H2,1-2H3;2H2,(H,3,4)
